US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-4-methylbenzenesulfonamide hydrochloride (Scheme 3)
The compound was synthesized from of N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide and p-toluenesulfonylchloride (51 mg, 0.27 mmol) to give 22 mg as purple solid. M+1 501.3 Calcd 501.15. 1HNMR δ 7.77-7.26 (m, 9H), 6.54 (d, 1H), 6.50 (d, 1H), 6.40 (dd, 1H), 3.63 (app t, 2H), 3.42 (app t, 2H), 3.25 (app t, 2H), 3.16 (app t, 2H), 2.38 (s, 3H), 2.11-2.03 (m, 2H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C22H30N4O4S
reactant | p-toluenesulfonylchloride | 0.27 mmol, 51 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-4-methylbenzenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C24H28N4O4S2.ClH/c1-19-8-11-22(12-9-19)34(31,32)26-23-13-10-20(28-16-5-14-25-15-17-28)18-24(23)27-33(29,30)21-6-3-2-4-7-21;/h2-4,6-13,18,25-27H,5,14-17H2,1H3;1H
